US09216999B2
1-Cyclohexyl-4-methyl-7-{[2-(trimethylsilyl)ethoxy]methyl}-1,2,4,7-tetrahydropyrrolo[3′,2′:5,6]pyrido[4,3-d][1,3]oxazine
1-(4-(Cyclohexylamino)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)ethanol (9 mg, 0.02 mmol) and aqueous formaldehyde (35 wt %, 0.3 mL, 4 mmol) in ethanol (1 mL) were stirred at 75° C. for 1 hour. The reaction mixture was allowed to cool to room temperature and, after addition of water, extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting pale yellow oil (9 mg) containing the title compound was used for the next step without further purification.

reactant | 1-(4-(Cyclohexylamino)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)ethanol | 0.02 mmol, 9 mg | C1(CCCCC1)NC1=C2C(=NC=C1C(C)O)N(C=C2)COCC[Si](C)(C)C | C21H35N3O2Si
reactant | formaldehyde | 4 mmol, 0.3 mL | C=O | CH2O
reactant | water | O | H2O
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 1-Cyclohexyl-4-methyl-7-{[2-(trimethylsilyl)ethoxy]methyl}-1,2,4,7-tetrahydropyrrolo[3′,2′:5,6]pyrido[4,3-d][1,3]oxazine | C1(CCCCC1)N1COC(C2=C1C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C)C | C22H35N3O2Si
